US04775671
A suspension of 7.4 g (26.9 mmol) of 7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 30 ml of N,N-dimethylformamide is treated with 5.83 g (35 mmol) of 1,1'-carbonyldiimidazole and the mixture is stirred at room temperature for 20 minutes and at 60° for 30 minutes. The mixture is subsequently poured into 150 ml of water, the product is filtered off under suction, rinsed with water and dried at 90° in a high vacuum. There is obtained 1-[[7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole of decomposition point 255°-257°.

reactant | 7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 26.9 mmol, 7.4 g | ClC1=CC=CC2=C1C(NCC=1N2C=NC1C(=O)O)=O | C12H8ClN3O3
reactant | 1,1'-carbonyldiimidazole | 35 mmol, 5.83 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[[7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | ClC1=CC=CC2=C1C(NCC=1N2C=NC1C(=O)N1C=NC=C1)=O | C15H10ClN5O2
